US08623898B2
N-[3-(Trifluoromethoxy)benzyl]tetrahydro-2H-pyran-4-amine
To a solution of 4-oxo-1H-pyran (200 mg) in chloroform (2 mL), 3-trifluoromethoxybenzylamine (380 mg) was added and the resulting mixture was stirred at room temperature for 30 minutes. Sodium (triacetoxy)borohydride (850 mg) was added and the resulting mixture was stirred for an hour. To the reaction mixture, an aqueous solution of 6 M sodium hydroxide was added and extraction was conducted with ethyl acetate. The solvents were distilled off under reduced pressure and the resulting residue was purified by column chromatography (NH silica gel cartridge; hexane/ethyl acetate=9:1 to 1:9) to give the titled compound (450 mg).

reactant | 4-oxo-1H-pyran | 200 mg | O=C1C=COC=C1 | C5H4O2
reactant | 3-trifluoromethoxybenzylamine | 380 mg | FC(OC=1C=C(CN)C=CC1)(F)F | C8H8F3NO
reactant | Sodium (triacetoxy)borohydride | 850 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 6 M | [OH-].[Na+]
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(Trifluoromethoxy)benzyl]tetrahydro-2H-pyran-4-amine | 450 mg | FC(OC=1C=C(CNC2CCOCC2)C=CC1)(F)F | C13H16F3NO2
